US07718652B2
In an analogous manner to Example 1, step 8, 3-(3-chloropropyl)-1-(4-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (50 mg) was reacted with methylamine and then treated with HCl to provide 3-[1-(4-fluorophenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl]-N-methylpropan-1-amine hydrochloride (46 mg):

reactant | 3-(3-chloropropyl)-1-(4-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 50 mg | ClCCCN1S(N(C2=C(C1)C=CC=C2)C2=CC=C(C=C2)F)(=O)=O | C16H16ClFN2O2S
reactant | methylamine | CN | CH5N
reactant | HCl | Cl | ClH
product | 3-[1-(4-fluorophenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl]-N-methylpropan-1-amine hydrochloride | 46 mg | Cl.FC1=CC=C(C=C1)N1S(N(CC2=C1C=CC=C2)CCCNC)(=O)=O | InChI=1S/C17H20FN3O2S.ClH/c1-19-11-4-12-20-13-14-5-2-3-6-17(14)21(24(20,22)23)16-9-7-15(18)8-10-16;/h2-3,5-10,19H,4,11-13H2,1H3;1H
